US05780648
[2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][phenyl]methanone
2.5 g (6.7 mmol) of [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][phenyl] methanone mixed with 10 g of pyridine hydrochloride and fused at 220° C. for 1.5 hours. The reaction mixture was poured into ice-water and mixture extracted with 500 mL of EtOAc. The EtOAc layer was separated, washed with brine, dried with MgSO4, and evaporated to a yellow oil. The product was crystallized from MeOH--HOH. This yielded 2.1 g of the title compound as yellow crystalline solid.

reactant | [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][phenyl] methanone | 6.7 mmol, 2.5 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=CC=C2 | C23H18O3S
reactant | pyridine hydrochloride | 10 g | Cl.N1=CC=CC=C1
product | [2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][phenyl]methanone | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)C(=O)C2=CC=CC=C2 | C21H14O3S
